US06300334B1
d) 6-(Hydroxymethyl)-3-methyl-1-(2-methylpropyl)-5-(2-thienylmethyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Sodium borohydride (0.06 g) was added to 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-5-(2-thienylthio)-thieno[2,3-d]pyrimidine-6-carboxaldehyde (0.25 g) in methanol (25 ml) and the mixture was stirred for 24 hours. The reaction was diluted with water (30 ml) and was then extracted with ethyl acetate (3×50 ml). The organic phases were washed with brine and dried over magnesium sulfate, filtered and evaporated to leave a green oil. Purification by chromatography (1:4 ethyl acetate:isohexane) gave the subtitle compound as a yellow foam (0.125 g).

reactant | Sodium borohydride | 0.06 g | [BH4-].[Na+]
reactant | 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-5-(2-thienylthio)-thieno[2,3-d]pyrimidine-6-carboxaldehyde | 0.25 g | CN1C(N(C2=C(C1=O)C(=C(S2)C=O)SC=2SC=CC2)CC(C)C)=O | C16H16N2O3S3
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 6-(Hydroxymethyl)-3-methyl-1-(2-methylpropyl)-5-(2-thienylmethyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.125 g | OCC1=C(C2=C(N(C(N(C2=O)C)=O)CC(C)C)S1)CC=1SC=CC1 | C17H20N2O3S2
